US08557983B2
ethyl 4-fluoro-2-(2-methyl-1H-indol-5-yloxy)benzoate
Ethyl 2,4-difluorobenzoate (1.14 g), K3PO4 (1.30 g) and 2-methyl-5-indolol (0.90 g) were stirred at 110° C. in diglyme (12 mL) for 24 hours. The mixture was cooled and poured into ether. The solution was washed three times with 1M NaOH solution, and with brine, and dried. The solution was then concentrated. The concentrate was chromatographed on silica gel with 10% ethyl acetate/hexanes.

reactant | Ethyl 2,4-difluorobenzoate | 1.14 g | FC1=C(C(=O)OCC)C=CC(=C1)F | C9H8F2O2
reactant | K3PO4 | 1.30 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | 2-methyl-5-indolol | 0.90 g | CC=1NC2=CC=C(C=C2C1)O | C9H9NO
reactant | ether | CCOCC | C4H10O
solvent | diglyme | 12 mL | COCCOCCOC | C6H14O3
product | ethyl 4-fluoro-2-(2-methyl-1H-indol-5-yloxy)benzoate | FC1=CC(=C(C(=O)OCC)C=C1)OC=1C=C2C=C(NC2=CC1)C | C18H16FNO3
